US05948819
Synthesis of (3-chloro-5-trifluoromethyl-2-pyridyloxymethyl)-α-methoxy-N-methyl-phenylacetamide (Compound No. 427)
A solution of 2-hydroxymethyl-α-methoxy-N-methyl-phenylacetamide (1.00 g, 4.8 mmol) in N,N-dimethylformamide (5 ml) was stirred at 0° C., and 60% oily sodium hydride (0.19 g, 4.8 mmol) was added thereto. The mixture was stirred at 0° C. for 30 minutes, and then 2,3-dichloro-5-trifluoromethyl-pyridine (1.24 g, 5.7 mmol) was added. The mixture was stirred at 0° C. for 2 hours, and then ice and water were added in this order. The mixture was extracted with ether, washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=1/1) to give the desired compound (3-chloro-5-trifluoro-methyl-2-pyridyloxymethyl)-α-methoxy-N-methyl-phenylacetamide (1.40 g, 75%) as white crystals.

reactant | 2-hydroxymethyl-α-methoxy-N-methyl-phenylacetamide | 4.8 mmol, 1.00 g | OCC1=C(C=CC=C1)C(C(=O)NC)OC | C11H15NO3
reactant | sodium hydride | 4.8 mmol, 0.19 g | [H-].[Na+]
reactant | 2,3-dichloro-5-trifluoromethyl-pyridine | 5.7 mmol, 1.24 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (3-chloro-5-trifluoromethyl-2-pyridyloxymethyl)-α-methoxy-N-methyl-phenylacetamide | ClC=1C(=NC=C(C1)C(F)(F)F)OCC(C(=O)NC)(OC)C1=CC=CC=C1 | C17H16ClF3N2O3
